US05877199
a) Isopropyl (4,9-dimethyl-1-methylthiocarbazol-2-yl)acetate
Following a procedure and using relative proportions of starting materials similar to those described in Example 4, but using isopropyl (4-methyl-1-methylthiocarbazol-2-yl)acetate and methyl iodide as starting materials, the title compound was obtained in a yield of 80% as an oil.

reactant | isopropyl (4-methyl-1-methylthiocarbazol-2-yl)acetate | CC1=CC(=C(C=2NC3=CC=CC=C3C12)SC)CC(=O)OC(C)C | C19H21NO2S
reactant | methyl iodide | CI | CH3I
product | Isopropyl (4,9-dimethyl-1-methylthiocarbazol-2-yl)acetate | yield of 80% | CC1=CC(=C(C=2N(C3=CC=CC=C3C12)C)SC)CC(=O)OC(C)C | C20H23NO2S
